US07173043B2
In analogy to example 15.1, 3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol and methane sulfonyl chloride were converted to yield Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester as a brown oil, MS: 377 (M, 1Cl).

reactant | 3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCO | C16H10ClNOS
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCOS(=O)(=O)C | C17H12ClNO3S2
